US09063126B2
2-methyl-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole
In a 100 mL round-bottom flask were combined p-tolylhydrazine hydrochloride (1.80 g, 11.4 mmol; Alfa Aesar), 9-azabicyclo[3.3.1]nonan-3-one hydrochloride (2.0 g, 11.4 mmol; Accela ChemBio), and concentrated sulfuric acid (5 mL) in dioxane (50 mL). The reaction mixture was heated to 80° C. for 2.5 hours, then cooled to room temperature. The solvent was decanted, and the residue was dissolved in water (20 mL) and basified with solid potassium carbonate to pH ˜12. This solution was extracted with dichloromethane (3×50 mL), and the combined organic phases were dried over magnesium sulfate. After removing the solvent under vacuum, the residue was purified by silica gel chromatography (CH2Cl2/CH3OH, 3:1) to afford the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 1.39-1.50 (m, 2H), 1.75 (d, J=14 Hz, 2H), 1.91-2.07 (m, 2H), 2.38 (s, 3H), 2.72 (d, J=17 Hz, 1H), 3.27-3.39 (m, 1H), 3.70 (t, J=5 Hz, 1H), 4.55 (t, J=3 Hz, 1H), 6.88 (dd, J=8, 1 Hz, 1H), 7.14 (s, 1H), 7.18 (d, J=8 Hz, 1H); MS (DCI/NH3) m/z 227 (M+H)+.

reactant | p-tolylhydrazine hydrochloride | 11.4 mmol, 1.80 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 9-azabicyclo[3.3.1]nonan-3-one hydrochloride | 11.4 mmol, 2.0 g | Cl.C12CC(CC(CCC1)N2)=O
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole | CC=1C=C2C3=C(NC2=CC1)CC1CCCC3N1 | C15H18N2
